Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tagamet / Zanaflex / Flagyl / Lisinopril / Augmentin / MRI 
contrast dye
 
Attending: ___.
 
Chief Complaint:
dyspnea
chest pain
 
Major Surgical or Invasive Procedure:
RIJ line placed, removed ___

 
History of Present Illness:
___ with COPD, multiple sclerosis,
breast and lung cancer who presents for progressive dyspnea.

The ___ was hospitalized at ___ from ___ for
progressive dyspnea. During that admission, she was initially
admitted to the ICU for acute on chronic hypoxemic respiratory
failure. CTA chest was differed given the ___ contrast
allergy and ___. A TTE was obtained which showed normal RV
function. CT without contrast was performed which showed an
increase in the size of her known lng cancer. Her dyspnea
improved while on her home triology and the underlying etiology
was thought ot be due to her COPD, multiple sclerosis and
progressive lung cancer. Palliative chemo and XRT was deferred
given her poor functional status. The hospital course was also
complicated by chest pain. No significant ECGs changes were 
noted
and her troponin was slightly elevated at 0.05. This was
attributed to her underlying tumor. Furthermore, the ___ 
also
complained of left ankle pain with XR demonstrated no ___
injury. 

Since discharge, the ___ has not felt her self. The ___
and daughter (present at bedside), state that since her 
discharge
from the hospital, she has had progressive dyspnea and constant
chest pain. She states the chest pain is sharp with radiation to
her back and is not exacerbated with activity. Her dyspnea has
also been progressive but exacerbated with lying flat. 

The ___ arrived to her outpatient oncologists office for
evaluation due to her progressive symptoms. Since she did not
have an appointment and given her overall poor clinical status,
she was referred to the ED.

Initial vitals in the ED were notable for:
T 98.4 HR 122 BP 120/75 R 20 SpO2 98% 4L NC
 
Past Medical History:
- Status post multiple breast excisions for benign cystic 
disease
- IDDM2
- Hypertension
- Gastroesophageal reflux disease status post fundoplasty in 
___
- Hyperlipidemia
- Multiple sclerosis 
- Chronic obstructive pulmonary disease - PFTs as above
- Sleep apnea on home CPAP
- Thyroid mass with tracheal compression s/p partial resection
- Non-small cell lung cancer status post left thoracotomy with 
left upper lobe posterior segmentectomy, 
- LUL adenocarcinoma s/p RFA in ___ - not surgical candidate

 
Social History:
___
Family History:
Father died at ___ yo from esophageal cancer. Mother died at ___ 
yo from complications of heart failure and diabetes. Sister died 
with polymyositis, brother was paraplegic and died from a SBO. 
Daughter with aneurysm. Daughter with renal artery stenosis. 
Sister died from a blood clot during a procedure.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
___ Temp: 98.6 PO BP: 99/65 HR: 115 RR: 20 O2
sat: 100% O2 delivery: 4L NC 
   
GENERAL:  Tired, though able to clearly communicate
HEENT: Dry mucous membranes without lesions. 
EYES:  PERRL, anicteric. +Arcus senilis b/l
NECK:  Supple
RESP:  Mildly increased work of breathing, No wheezing or
rhonchi. Scattered crackles bilaterally with distant breath
sounds of left upper lung fields 
___:  Regular with occasional PVCs. Significant parasternal 
heave
GI:  Soft, NTND no HSM
EXT:  warm, non-pitting edema b/l. No swelling or palpable cord
SKIN:  dry
NEURO:  CN II-XII intact, able to wiggle toes, unable to lift
legs off of bed due to pain. Dorsi/plantar flexion ___ b/l
ACCESS:  R IJ CVL c/d/i

DISCHARGE PHYSICAL EXAM:
Temp: 98.0 BP 151 / 84 HR 118 RR 22 94 4L NC
GENERAL: sitting in chair by bed, disoriented, somnolent, 
diaphoretic
HEENT: Dry mucous membranes; oropharynx clear. poor dentition
EYES:  PERRL, anicteric. +Arcus senilis b/l
RESP: increased work of breathing, No wheezing or
rhonchi in right lung fields. Absent breathsounds in left lung
fields.
___:  RRR, no m/r/g Significant parasternal heave
GI:  Soft, NTND, BS+, no hepatosplenomegaly
EXT:  warm, 2+ pitting edema bilateraly. No swelling or palpable
cord, left leg TTP which is consistent with baseline
SKIN:  diaphoretic, no rashes
NEURO: Oriented to person only. CN II-XII intact, no
focal neurologic deficits  but difficult to assess due to AMS.
 
Pertinent Results:
ADMISSION LABS:
___ 05:48PM BLOOD WBC: 14.4* RBC: 4.05 Hgb: 11.3 Hct: 35.9
MCV: 89 MCH: 27.9 MCHC: 31.5* RDW: 13.9 RDWSD: 45.___* 

___ 05:48PM BLOOD Neuts: 71.6* Lymphs: 11.9* Monos: 11.2
Eos: 4.4 Baso: 0.3 Im ___: 0.6 AbsNeut: 10.30* AbsLymp: 1.71
AbsMono: 1.61* AbsEos: 0.64* AbsBaso: 0.05 
___ 05:48PM BLOOD Glucose: 95 UreaN: 36* Creat: 1.8* Na:
130* K: 5.4 Cl: 85* HCO3: 29 AnGap: 16 
___ 05:48PM BLOOD cTropnT: 0.04* 
___ 07:12PM BLOOD Type: ___ pO2: 43* pCO2: 70* pH: 7.27*
calTCO2: 34* Base XS: 2 
___ 09:54PM BLOOD Type: MIX pO2: 79* pCO2: 66* pH: 7.28*
calTCO2: 32* Base XS: 1 Comment: GREEN TOP TUBE 

CT CHEST:
==========
IMPRESSION:  
  
Substantial progression of malignancy in the chest and upper 
abdomen since 
___, including growing central adenopathy, mediastinum and 
left hilum 
responsible for complete left upper lobe collapse, internal 
mammary and 
diaphragmatic chains, and growing T10 pedicle metastasis, with 
probable canal 
invasion. 
  
The most critical bronchial narrowing is the completely occluded 
left upper 
lobe bronchus, and severely narrowed left lower lobe basal trunk 
bronchus. 

VIDEO SWALLOW STUDY:
========================
IMPRESSION:  
  
There was penetration of thin and nectar thickened liquids.  No 
aspiration. 
  
Please note that a detailed description of dynamic swallowing as 
well as a 
summative assessment and recommendations are reported separately 
in a 
standalone note by the Speech-Language Pathologist (OMR, Notes, 
Rehabilitation 
Services). 
  
Discharge Labs: N/a as pt discharge home with hospice on CMO.
 
Brief Hospital Course:
SUMMARY:
============
___ with breast and lung cancer, COPD and multiple sclerosis 
presents with progressive dyspnea and chest pain. Found to have 
significant interval increase in left lung adenoCa which is the 
underlying cause of dyspnea and likely dysphagia as well. Now
transitioning to more comfort focused care.

# Metastatic NSCLC
#DYSPNEA
#CHEST PAIN/MALIGNANCY RELATED PAIN
# Left lung collapse
#ACUTE ON CHRONIC HYPOXIC RESPIRATORY FAILURE
# Dysphagia: ___ with large disease burden in both lungs 
complicated by total collapse of the left lung. Metastatic 
disease to liver, mediastinal LAD with esophageal compression 
causing dysphagia and aspiration risk. Mets to the bone causing 
pain. Discussion with her breast onc (___) as well as lung 
onc (___), as well as rad-onc revealed that chemo and 
radiation are not a viable option given her advanced disease and 
poor functional status. Not a candidate for immunotherapy given 
her multiple sclerosis. IP did not think a stent would provide 
more benefit that risk. Family meeting held ___ with clear 
understanding of the terminal nature of the cancer and an
agreement that the primary focus should be on treating patients 
symptoms, while still treating infections and continuing medical 
treatments that may extend life as long as they don't themselves 
lead to suffering. Pain and air hunger managed with IV dilaudid 
and Ativan. Increased fentanyl patch to 100 Q72hours. After many 
family meetings regarding ___, family would like to take home on 
hospice, with comfort measures only.

# Dysphagia:
CT chest showing mediastinal LAD with esophageal compression
causing dysphagia and aspiration risk. Speech and swallow 
consulted and deemed ___ high aspiration risk, recommended 
NPO. ___ conversations with ___ and family in which ___ 
understood the risk of aspiration, choking, and future 
infections, and decided that she would accept these risks in 
order to be able to eat the foods she wanted.

# Leukocytosis
# Possible post-obstructive PNA/ Aspiration PNA: Leukocytosis
likely ___ cancer burden; continues to uptrend.
-Completed Cefepime/ clindamycin to complete ___.
Decision made to switch to CMO.

#CHRONIC RESPIRATORY ACIDOSIS
#COPD
Continued home albuterol, duonebs, home roflumilast. ___ 
brought in home trilogy machine as she did not like the one in 
the hospital. Chest physical therapy with vest.

#BREAST CANCER
#LUNG CANCER
#GOALS OF CARE: 
Discontinued anastrazole as it is not improving her prognosis at 
this time and not within ___.

#DYSPHAGIA
#MALNUTRITION: ___ wishes to eat for pleasure despite risks, 
otherwise
aspiration precautions.

#CANCER RELATED PAIN:
___ has had inadequate pain control despite fentanyl patch 
and breakthrough oxycodone. Although legs are weak, I believe 
this is due to her fatigue rather than spinal cord involvement. 
ECG and biomarkers done in ED reassuring against acute ischemia.
Palliative care followed ___ throughout course of 
hospitalization.
Pain control going home will be with fentanyl patch, 
hydromorphone ___ Q4 hours for breakthrough, as well as 
Tylenol as needed. In regards to anxiety control, she will be 
discharged with Xyprexa 5mg QHS standing and QAM as needed, with 
diazepam as needed for agitation.

#MULTIPLE SCLEROSIS: Followed by Dr. ___. Primary, 
progressive MS. ___ is complaining of occasional muscle 
cramps and leg pain. Prior work up wit XR and ___ negative. 
Continued gabapentin and lorazepam. Home Temazepam was 
discontinued due to concern for over-sedation, and discharged 
with diazepam to also control anxiety.

TRANSITIONAL ISSUES:
==========================
[] Hospice service is Care ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Men-Phor (camphor-menthol) 0.5-0.5 % topical TID:PRN 
2. Anastrozole 1 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Atorvastatin 10 mg PO BID 
5. Azithromycin 250 mg PO Q24H 
6. Benzonatate 200 mg PO TID:PRN cough 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. Fentanyl Patch 100 mcg/h TD Q72H 
9. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
10. Furosemide 80 mg PO BID 
11. Gabapentin 300 mg PO QHS 
12. GuaiFENesin ER 1200 mg PO Q12H:PRN cough 
13. Metoprolol Succinate XL 100 mg PO DAILY 
14. Montelukast 10 mg PO DAILY 
15. Omeprazole 20 mg PO BID 
16. roflumilast 500 mcg oral DAILY 
17. Temazepam ___ mg PO QHS:PRN insomnia 
18. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe 
19. Tiotropium Bromide 1 CAP IH DAILY 
20. Vitamin D 5000 UNIT PO DAILY 
21. Acetaminophen 650 mg PO Q6H 
22. acetylcysteine 100 mg/mL (10 %) IH BID 
23. biotin 1 mg oral DAILY 
24. Cetirizine 10 mg PO DAILY 
25. Diazepam 2 mg PO Q12H:PRN anxiety, dyspnea 
26. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
27. Hydrocortisone (Rectal) 2.5% Cream 1 Appl PR TID:PRN rectal 
itching 
28. GlipiZIDE 10 mg PO BID 
29. hypromellose 2.5 % ophthalmic (eye) DAILY 
30. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
31. Losartan Potassium 50 mg PO BID 
32. Nystatin Cream 1 Appl TP BID rash 
33. Potassium Chloride 10 mEq PO TID 
34. Sodium Chloride Nasal ___ SPRY NU BID:PRN dry nostrils 
35. ubidecarenone-omega 3-vit E ___ mg-mg-unit oral DAILY 

36. Docusate Sodium 100 mg PO BID 
37. Senna 8.6 mg PO BID 
38. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
39. Lidocaine 5% Patch 1 PTCH TD QPM apply to chest 
40. Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea 
41. tresiba 8 Units Bedtime

 
Discharge Medications:
1.  Diazepam 5 mg PO Q12H:PRN anxiety, agitation 
RX *diazepam 5 mg/5 mL (1 mg/mL) 5 mg by mouth twice daily as 
needed Disp #*1 Bottle Refills:*0 
2.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Moderate 
RX *hydromorphone [Dilaudid] 1 mg/mL ___ mg by mouth every 3 
hours as needed Refills:*0
RX *hydromorphone [Dilaudid] 4 mg ___ tablet(s) by mouth every 
four hours as needed Disp #*12 Tablet Refills:*0 
3.  OLANZapine (Disintegrating Tablet) 5 mg PO QAM:PRN anxiety, 
agitation 
RX *olanzapine 5 mg 1 tablet(s) by mouth every morning as needed 
Disp #*20 Tablet Refills:*0 
4.  OLANZapine 5 mg PO QHS Mild Agitation 
RX *olanzapine 5 mg 1 tablet(s) by mouth every night Disp #*30 
Tablet Refills:*0 
5.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea  
7.  Benzonatate 200 mg PO TID:PRN cough  
8.  Docusate Sodium (Liquid) 100 mg PO BID  
9.  Fentanyl Patch 100 mcg/h TD Q72H 
RX *fentanyl 100 mcg/hour apply to arm rotating positions every 
three days Disp #*10 Patch Refills:*0 
10.  Gabapentin 300 mg PO QHS  
11.  GuaiFENesin ER 1200 mg PO Q12H:PRN cough  
12.  Hydrocortisone (Rectal) 2.5% Cream 1 Appl PR TID:PRN rectal 
itching  
13.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
14.  Lidocaine 5% Patch 1 PTCH TD QPM apply to chest  
15.  Sodium Chloride Nasal ___ SPRY NU BID:PRN dry nostrils  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
-----------
Lung adenocarcinoma - Non-small cell lung cancer status post 
left thoracotomy with left upper lobe posterior segmentectomy 
Breast cancer
T2DM
COPD

Secondary:
------------
- Hypertension
- Gastroesophageal reflux disease status post fundoplasty in 
___
- Hyperlipidemia
- Multiple sclerosis 
- Sleep apnea on home CPAP
- Thyroid mass with tracheal compression s/p partial resection
- LUL adenocarcinoma s/p RFA in ___ - not surgical candidate
- Status post multiple breast excisions for benign cystic 
disease

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
- You had increased difficulty with breathing and trouble 
swallowing.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- Imaging was done that showed your left lung tumor had grown in 
size and was the cause of your difficulty breathing and chest 
pain.
- You were found to have an infection caused by the left lung 
tumor, and treated with antibiotics.
- Your pain, anxiety, and shortness of breath were treated with 
medications.
- The palliative care service saw you and made recommendations 
to manage your symptoms as effectively as possible.
- You made the decision, along with your family, to go home with 
comfort measures only.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines as directed.

****Your medical care will be handled by your hospice 
team.******

We wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___